Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
tetanus toxoid, adsorbed / sulfamethoxazole
 
Attending: ___.
 
Chief Complaint:
weakness, transfer for abnormal labs
 
Major Surgical or Invasive Procedure:
EUS ___
Diagnostic Paracentesis ___

 
History of Present Illness:
Ms. ___ is a pleasant ___ h/o HCV cirrhosis, 
thrombocytopenia, CHF who was transferred from ___ for 
further evaluation of elevated LFTs and dilated CBD. She 
initially presented to ___ with weakness and fatigue, 
generalized aches and pains.  Pt states that she was toileting 
and lowered herself to the floor due to weakness and then called 
EMS for transport to the ___.  She did not fall, hit her head or 
loose consciousness.  Labs there were significant for T. Bili 
4.0, D Bili 2.0, ALT 42, AST 103. She had an abdominal 
ultrasound which showed common duct dilation and evidence of 
portal hypertension; no gallstones. She also had a urinalysis 
with positive nitrites concerning for UTI. She received IVF and 
IV ceftriaxone.  She was reportedly transferred here for 
hepatology eval. 

In regards to her HCV cirrhosis, it is managed by Dr. ___ at 
___. Records from ___ which show HCV viral load ___ 
liver fibrosis 0.99 c/w severe fibrosis, necroinflammatory 0.78; 
GGT 67, ALT 97, Cr 0.8, T Bili 2.9, AST 193, ALT 108.

In the ___, initial vitals were: 97.4 83 98/49 18 98% RA.  Pts 
only complaint was chronic L foot pain and chronic abd pain.   
Pt was given 1L NS.  ERCP was consulted for extrahepatic CDD, 
recommended MRCP tonight with possible ERCP in the AM given 
dilation without evidence of stones.  

On the floor, patient states that she doesn't know what caused 
her weakness but she feels that ever since last ___ she has 
decreased energy.  She endorses abd pain x years which is worse 
with bending at the waist and palpation.  No dysyria, increased 
frequency x 2 months.  No change in urinary sxs over the last 
week.  Denies confusion, worsening abd distention.  States she 
has chronic leg swelling but has not been getting worse 
recently, does seem to get worse is she is on feet.  She denies 
fevers, chills, chest pain, SOB. 

Review of systems:
(+) Per HPI
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias. 10 
pt ros otherwise negative.

 
Past Medical History:
(per chart, confirmed with pt):
HCV
Decompensated cirrhosis with ascites
colon polyps
GERD
Hypertension
Macular degeneration
L3 compression fracture
breast cancer s/p mastectomy
 
Social History:
___
Family History:
mother with esophageal cancer, father with laryngeal ca, sister 
with parkinsons. 
 
Physical Exam:
ADMISSION EXAM:
===============
Vitals: 98.2 PO 107 / 61 80 20 94 RA 
Constitutional: Alert, oriented, no acute distress, tangential
EYES: Sclera anicteric,  EOMI, PERRL
ENT: MMM, oropharynx clear
Neck: Supple, JVP not elevated
CV: Regular rate and rhythm, normal S1 + S2, ___ SEM
Respiratory: Clear to auscultation bilaterally, no wheezes, 
rales, rhonchi
GI: Soft, distended, diffusely TTP, non-distended, bowel sounds 
present, no organomegaly, no rebound or guarding. No fluid wave.
GU: No foley
EXT: Warm, well perfused, 2+ bilat ___
NEURO: aaox3 CNII-XII and strength grossly intact except ___ in 
bilat LEs.  No asterixis
SKIN: no rashes or lesions

DISCHARGE EXAM:
===============
Vitals: 98.1 PO 109 / 63 72 18 ___ppearing, comfortable, appropriate
Sclera anicteric, MMM
Neck supple without JVD
RRR, ___ SEM
Lungs CTAB without crackles
Soft, moderately distended without ttp, normal bowel sounds, no 
rebound
No foley
WWP, 2+ Bilateral ___: no asterixis, moving all extremities
Skin: No rashes, no lesions
 
Pertinent Results:
Admission Labs:
==================
___ 06:23PM URINE  HOURS-RANDOM
___ 06:23PM URINE  UHOLD-HOLD
___ 06:23PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 06:23PM URINE  BLOOD-NEG NITRITE-POS PROTEIN-TR 
GLUCOSE-NEG KETONE-TR BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 LEUK-LG
___ 06:23PM URINE  RBC-<1 WBC-28* BACTERIA-FEW YEAST-NONE 
EPI-6
___ 06:23PM URINE  HYALINE-1*
___ 06:23PM URINE  MUCOUS-RARE
___ 02:43PM   COMMENTS-GREEN TOP
___ 02:43PM   LACTATE-1.8
___ 02:30PM   GLUCOSE-86 UREA N-25* CREAT-0.9 SODIUM-141 
POTASSIUM-4.3 CHLORIDE-106 TOTAL CO2-22 ANION GAP-17
___ 02:30PM   estGFR-Using this
___ 02:30PM   ALT(SGPT)-36 AST(SGOT)-91* ALK PHOS-94 TOT 
BILI-4.0*
___ 02:30PM   LIPASE-19
___ 02:30PM   cTropnT-0.01
___ 02:30PM   ALBUMIN-2.6* CALCIUM-9.1 PHOSPHATE-3.2 
MAGNESIUM-1.7
___ 02:30PM   WBC-2.9* RBC-3.20* HGB-11.0* HCT-32.8* 
MCV-103* MCH-34.4* MCHC-33.5 RDW-15.9* RDWSD-59.0*
___ 02:30PM   NEUTS-52.7 ___ MONOS-16.6* EOS-1.4 
BASOS-0.3 AbsNeut-1.53* AbsLymp-0.84* AbsMono-0.48 AbsEos-0.04 
AbsBaso-0.01
___ 02:30PM   PLT COUNT-62*
___ 02:30PM   ___ PTT-33.7 ___

LABS:
OSH labs notable for last WBC 1.8K, last plts 51K in ___ at 
Dr. ___, Cr 0.8 at that time. 

DIAGNOSTIC PARACENTESIS:
WBC: 211, Polys: 2%

MICRO: 
Blood culture ___: NGTD
Urine culture ___: no growth
Peritoneal fluid ___: NGTD, gram stain negative.

STUDIES:
TTE ___
Trace mitral regurg
EF 45-50%

___ ABD US ___. Cirrhosis. Upper abdominal ascites. 
Splenomegaly. Evidence of
portal hypertension.
2. Extrahepatic common duct dilatation, as noted. No definite 
common
duct calculus, no definite pancreatic head mass.
3. Prominent splenic hilum level vessels, presumed enlarged
portosystemic channels.
4. No gallstones or intrahepatic bile duct dilatation.

CXR ___: No acute cardiopulmonary process.

EKG: NSR with LBBB

EUS ___:
Normal mucosa was noted. No evidence of varices 
•Congestion and friability in the stomach body, fundus and 
antrum compatible with PHT
•Normal mucosa in the duodenum
•EUS was performed using a linear echoendoscope at ___ MHz 
frequency: The head and uncinate pancreas were imaged from the 
duodenal bulb and the second / third duodenum. The body and tail 
[partially] were imaged from the gastric body and fundus.
•Pancreas parenchyma: The parenchyma in the uncinate, head, body 
and tail of the pancreas was homogenous, with a normal “salt and 
pepper” appearance. 
•Pancreas duct: The pancreas duct measured 2 mm in maximum 
diameter in the head of the pancreas and 1 mm in maximum 
diameter in the body of the pancreas. The duct was normal in 
echotexture and contour. No intra-ductal stones were noted.
Ampulla appeared normal both endoscopically and sonographically. 

•COMMON BILE DUCT EUS The bile duct was imaged at the level of 
the porta-hepatis, head of the pancreas and ampulla. The maximum 
diameter of the bile duct was 10.5 mm. The bile duct was normal 
in appearance. 
•No intrinsic stones or sludge were noted. 
•The bile duct and the pancreatic duct were imaged within the 
ampulla and appeared normal.
•Due to the lack of bile duct stones ERCP was not performed 
•Otherwise normal upper eus to third part of the duodenum

Discharge Labs:
=================
___ 08:30AM BLOOD WBC-2.1* RBC-3.44*# Hgb-11.2# Hct-33.7*# 
MCV-98 MCH-32.6* MCHC-33.2 RDW-15.9* RDWSD-56.1* Plt Ct-50*
___ 08:30AM BLOOD Neuts-32.6* ___ Monos-13.2* 
Eos-4.8 Baso-0.9 AbsNeut-0.74*# AbsLymp-1.10* AbsMono-0.30 
AbsEos-0.11 AbsBaso-0.02
___ 08:30AM BLOOD Glucose-96 UreaN-24* Creat-0.9 Na-138 
K-3.6 Cl-104 HCO3-25 AnGap-13
___ 08:30AM BLOOD ALT-33 AST-82* LD(LDH)-250 AlkPhos-84 
TotBili-3.1*
___ 08:30AM BLOOD Calcium-8.7 Mg-1.4*
 
Brief Hospital Course:
Ms. ___ is an ___ yo F with hx decompensated cirrhosis, HCV, 
systolic CHF with EF of 45-50% on last TTE, p/w generalized 
weakness and elevated LFTs. 

# Weakness: reassuringly, no focal deficits and no clear 
infectious process noted on arrival.  Pt states that this has 
been going on for almost a year now and may represent 
progression of her decompensated cirrhosis vs. orthostatic 
hypotension given her borderline low BP's noted on vitals off 
all home anti-hypertensives.  Given no clinical sxs of UTI and 
negative urine culture abx were not continued for UTI.  ___ saw 
pt and felt that she would benefit from rehab placement. Her 
antihypertensives were held on admission and spironolactone 
restarted on HD1. Lasix was restarted prior to discharge. 

# Elevated LFT's/decompensated cirrhosis:  Pt transferred from 
___ for CBD dilation but she did not have clear history of 
new abdominal pain and no RUQ tenderness on exam.  EUS was 
performed on ___ which negative for any bile duct obstruction. 
 Diagnostic para was also done on ___ as not c/w SBP. LFT's 
improved without further intervention.  It was felt that 
elevated LFT's were likely ___ underlying HCV and cirrhosis and 
were stable from prior lab work at her gastroenterologists in 
___ of this year.  She was continued on home sprinolactone and 
restarted on 20 mg home Lasix as she had some signs of volume 
overload on history and exam (reported worsening DOE and 
significant ___ edema noted on exam). She had no evidence of 
hepatic encephalopathy. Limited exam of esophagus on EGD/EUS did 
not reveal varices. 

# HTN: Held home metoprolol and lisinopril for borderline low 
BP's on admission. Metoprolol restarted on discharge.

# Hypomagnesemia: Patient with low magnesium to 1.3, repleted on 
___. Likely related to holding her home magnesium supplement. 
She will need repeat magnesium on ___. 

# Pancytopenia: Pt noted to have pancytopenia with WBC in the 
2's, Hb ~9, and platelet's in the 40's-60's range.  These values 
were similar to prior CBC in ___ and are likely related 
to her underlying cirrhosis. 
 
# GERD: continued home PPI.

TRANSITIONAL ISSUES:
======================
[] Held home lisinopril on discharge as BPs noted to be low 
during admission. Can consider restarting pending BP as 
outpatient.  
[]Please follow-up peritoneal fluid culture from ___ and blood 
culture from ___
[]f/u final MRCP read
[]Please repeat CBC with diff and chemistries for Cr and Mg on 
___
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Metoprolol Succinate XL Dose is Unknown  PO Frequency is 
Unknown 
2. Lisinopril 20 mg PO DAILY 
3. Furosemide 40 mg PO EVERY OTHER DAY 
4. Spironolactone 12.5 mg PO EVERY OTHER DAY 
5. Omeprazole 20 mg PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. lutein 40 mg oral BID 
8. Vitamin D 400 UNIT PO DAILY 
9. Magnesium Oxide 250 mg PO DAILY 
10. Aspirin 81 mg PO DAILY 
11. Simethicone Dose is Unknown  PO Frequency is Unknown 
12. Ocuvite (vit C-vit E-lutein-min-om-3) 150-30-5-150 
mg-unit-mg-mg oral unknown 
13. Calcium Carbonate 500 mg PO Frequency is Unknown 
14. Align (Bifidobacterium infantis) unknown  oral unknown 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Furosemide 20 mg PO DAILY  
3.  Magnesium Oxide 250 mg PO DAILY  
4.  Metoprolol Succinate XL 25 mg PO DAILY  
5.  Multivitamins 1 TAB PO DAILY  
6.  Ocuvite (vit C-vit E-lutein-min-om-3) 150-30-5-150 
mg-unit-mg-mg oral unknown  
7.  Omeprazole 20 mg PO DAILY  
8.  Spironolactone 25 mg PO EVERY OTHER DAY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
HCV Cirrhosis
Pancytopenia
Weakness

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___, 

You came in with weakness and elevated liver enzymes.  We did a 
procedure to look for any infection in the fluid around your 
belly and this was negative.  You also underwent an endoscopy to 
look for a blockage in your bile duct and this was negative as 
well.

We think that your weakness and your progressive fatigue is 
related to a worsening of your underlying liver condition.  
Please continue to discuss with your outpatient doctors about 
starting a treatment for your hepatitis C.  You were also found 
to have a low blood pressure and so your lisinopril was stopped 
as low blood pressure can contribute to your falls and feeling 
of weakness. 

Please call your doctor if you experience worsening shortness of 
breath, abdominal discomfort, yellowing of your eyes, worsening 
swelling in your legs, bloody vomiting or bloody or black stools 
or any other symptoms that concern you.

It was a pleasure taking care of you,
Your ___ Care Team
 
Followup Instructions:
___